US04795815
Under a nitrogen atmosphere, allyl 3-cyano-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2carboxylate (1.54 g, 4.43 mmol) was combined with 3N hydrochloric acid in glacial acetic acid (45 ml) and the mixture was stirred at room temperature until it was a solution (5 minutes), when it was evaporated in vacuo to dryness. The residue was redissolved in methylene chloride and the solution was taken to dryness in vacuo two times to yield allyl 3-cyano-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride.

reactant | allyl 3-cyano-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2carboxylate | 4.43 mmol, 1.54 g | C(#N)C1=C(N2C(C(CN2C1)NC(=O)OC(C)(C)C)=O)C(=O)OCC=C | C16H20N4O5
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | allyl 3-cyano-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride | Cl.C(#N)C1=C(N2C(C(CN2C1)N)=O)C(=O)OCC=C | InChI=1S/C11H12N4O3.ClH/c1-2-3-18-11(17)9-7(4-12)5-14-6-8(13)10(16)15(9)14;/h2,8H,1,3,5-6,13H2;1H
